US04124725
To a freshly prepared, stirred solution of 0.25 mole of sodium ethanethiolate in 250 ml. of N,N-dimethylformamide at 0° C. is added 34 g. (0.10 mole) of 4-(4-methoxybenzoyl)-2,6-di(t-butyl)phenol, and the resulting solution is refluxed for 3 hours. The solution is stirred at 23° C. for about 16 hours, then acidified with 10 percent hydrochloric acid and extracted with dichloromethane. The organic extracts are washed twice with 10 percent hydrochloric acid, then with water, then dried and evaporated to provide an oil residue. The residue is dissolved in benzene and cooled. A solid crystallizes after many hours. It is recrystallized from a benzene-hexane mixture, then sublimed to provide white crystals of 4-(4-hydroxybenzoyl)-2,6-di(t-butyl)-phenol, m.p. 188°-189.5° C.

reactant | sodium ethanethiolate | 0.25 mole | C(C)[S-].[Na+]
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
reactant | 4-(4-methoxybenzoyl)-2,6-di(t-butyl)phenol | 0.10 mole | COC1=CC=C(C(=O)C2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)C=C1 | C22H28O3
reactant | hydrochloric acid | Cl | ClH
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-(4-hydroxybenzoyl)-2,6-di(t-butyl)-phenol | OC1=CC=C(C(=O)C2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)C=C1 | C21H26O3
